US09029411B2
To a suspension of methyl 3-amino-4-cyano-5-(methylthio)thiophene-2-carboxylate (4.0 g, 17.5 mmol) in acetonitrile (20 mL) was added diiodomethane (4.94 mL, 61.3 mmol). The reaction mixture was heated at 38° C. Isoamyl nitrate (5.13 g, 43.8 mmol) was added dropwise over five minutes. After the addition of amyl nitrate, the reaction mixture was allowed to cool to room temperature and stirred for two hours. The reaction mixture was cooled in an ice bath and hexanes (20 mL) were added. The resultant precipitate was filtered and washed with a solution of 90% hexanes in acetonitrile (10 mL), 75% hexanes in diethyl ether (10 mL) and 100% hexanes (20 mL) to give methyl 4-cyano-3-iodo-5-(methylsulfanyl)thiophene-2-carboxylate (3.4 g, 57%) as a light orange solid. 1H NMR (400 MHz, CDCl3) δ: 3.91 (s, 3H), 2.70 (s, 3H)

reactant | methyl 3-amino-4-cyano-5-(methylthio)thiophene-2-carboxylate | 17.5 mmol, 4.0 g | NC1=C(SC(=C1C#N)SC)C(=O)OC | C8H8N2O2S2
reactant | diiodomethane | 61.3 mmol, 4.94 mL | ICI | CH2I2
reactant | Isoamyl nitrate | 43.8 mmol, 5.13 g | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
reactant | amyl nitrate | [N+](=O)(OCCCCC)[O-] | C5H11NO3
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | methyl 4-cyano-3-iodo-5-(methylsulfanyl)thiophene-2-carboxylate | 3.4 g, 57% | C(#N)C=1C(=C(SC1SC)C(=O)OC)I | C8H6INO2S2
